US08039458B2
4-Fluoro-2-methylsulfanyl-benzylamine.
4-Fluoro-2-(methylthio)benzonitrile (prepared as in Anthony, N. J. et al. PCT Appl. WO 02/30931, 2002) (1.67 g, 0.1 mol) was dissolved in 20 mL THF (under N2) and treated with 10 mL 2M BH3—(CH3)2S. This was heated at 60° C. for 2 hrs. Heating was discontinued and 5 mL MeOH was cautiously added, followed by the cautious addition of 4 mL 6N HCl. Then 20 mL more H2O added and EtOAc and the layers were separated. The aqueous layer was made basic with 1N NaOH and extracted with CH2Cl2. The extracts were dried (MgSO4), filtered, concentrated and dried in vacuum to give the title compound (1.3 g, 76%)as a solid. 1H NMR (500 MHz, CDCl3) δ: 7.20-7.31 (1 H, m) 6.90 (1H, dd, J=2.4 Hz) 6.75-6.86 (1H, m) 3.86 (2H, s) 2.47 (3H, s). LC/MS (M+H): 172.

reactant | 4-Fluoro-2-(methylthio)benzonitrile | 0.1 mol, 1.67 g | FC1=CC(=C(C#N)C=C1)SC | C8H6FNS
reactant | MeOH | 5 mL | CO | CH4O
reactant | HCl | 6N, 4 mL | Cl | ClH
reactant | H2O | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Fluoro-2-methylsulfanyl-benzylamine | 1.3 g, 76% | FC1=CC(=C(CN)C=C1)SC | C8H10FNS
